US03985811
5-Chloro-2-hydroxymethyl-benzhydrol
A suspension of 120 g. of 2-benzoyl-4-chlorobenzoic acid in 900 ml. of anhydrous ethyl ether is added dropwise to 41 g. LiAlH4 suspended in 700 ml. of anhydrous ethyl ether with stirring at about 0° C. When the addition is completed, the mixture is stirred for 4 hours at room temperature and the reaction complex is decomposed by adding 125 ml. of 20% ammonium chloride with stirring. The inorganic precipitate is filtered off and washed with ethyl ether. The ether solutions are combined, dried over sodium sulfate and evaporated to dryness. The oily residue is triturated with light petroleum and the solid obtained is crystallized from diisopropyl ether. M.p. 102°-107° C. Yield 105 g.

reactant | 2-benzoyl-4-chlorobenzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=CC(=C1)Cl | C14H9ClO3
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl ether | C(C)OCC | C4H10O
product | 5-Chloro-2-hydroxymethyl-benzhydrol | ClC=1C=CC(=C(C(C2=CC=CC=C2)O)C1)CO | C14H13ClO2
